US08022062B2
6-(3-Amino-propylamino)-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine
Use a method similar to the Preparation 20, using 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (600 mg, 1.41 mmol) and tert-butyl N-(3-aminopropyl)-carbamate (1.11 g, 6.34 mmol) to give the title compound (34% overall).

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.41 mmol, 600 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | tert-butyl N-(3-aminopropyl)-carbamate | 6.34 mmol, 1.11 g | NCCCNC(OC(C)(C)C)=O | C8H18N2O2
product | 6-(3-Amino-propylamino)-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 34% | NCCCNC1=C(C=CC=2CCN(CCC21)C(C(F)(F)F)=O)Cl | C15H19ClF3N3O
